US05998436
Synthesis of 2-amino-3,5-difluoro-6-(methylamino)pyridine
To a mixed solution of 10 ml of methanol and 1 ml of concentrated hydrochloric acid were added all amount of the above described 2-benzylamino-3,5-difluoro-6-(methylamino)pyridine together with 0.55 g of 10% palladium on carbon, and the mixture was hydrogenated at 50° C. overnight. The catalyst was separated by filtration, and the solvent and the like were distilled off under reduced pressure. To the residue was added 50 ml of chloroform, and the mixture was washed with 50 ml of 5% aqueous solution of sodium carbonate. The chloroform layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The solid precipitate was collected by filtration to obtain 840 mg of the title compound as a pale gray solid.

reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | 2-benzylamino-3,5-difluoro-6-(methylamino)pyridine | C(C1=CC=CC=C1)NC1=NC(=C(C=C1F)F)NC | C13H13F2N3
catalyst | palladium on carbon | 0.55 g | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 2-amino-3,5-difluoro-6-(methylamino)pyridine | 840 mg | NC1=NC(=C(C=C1F)F)NC | C6H7F2N3
